US04946839
Preparation of 2,4-Dibromoglutaric anhydride
10.0g (34.5 mmol) of 2,4-dibromoglutaric acid and 4.9 ml (69 mmol) of acetyl chloride are refluxed for a period of 2 hours. Volatiles are removed at 10 torr up to 90° C., and the residue bulb-to-bulb distilled (75°-90° C./0.25 torr), yielding 8.9g (95%) of a colourless, viscous oil. 1H NMR (CDCl3): dl isomer: δ 4.90 (t, 2H, J=6), 2.87 (t, 2H, J=6); meso isomer: 4.77 (dd, 2H, J=6, 10), 3.15 (dt, 1H, J=6 (t), 15 (d)), approx. 2.85 (1H, partially overlapping); dl/meso=5:1. IR (neat): 3007, 2942, 1817, 1775, 1439, 1242, 1109, 1038, 972, 932, 847, 691, 617 cm-1.

reactant | 2,4-dibromoglutaric acid | 34.5 mmol, 10.0g | BrC(C(=O)O)CC(C(=O)O)Br | C5H6Br2O4
reactant | acetyl chloride | 69 mmol, 4.9 ml | C(C)(=O)Cl | C2H3ClO
product | 2,4-Dibromoglutaric anhydride | BrC1C(=O)OC(C(C1)Br)=O | C5H4Br2O3
